US05185342
To Product (A') (286 mg), i.e. methyl-(Z)-2-[2-(3-tolyloxy)phenyl]-2-methoxyiminoacetate, [2-(3-tolyloxy)phenyl]-2-methoxyiminoacetate, 30 % methanolic methylamine (197 mg) was added, followed by stirring at room temperature for 12 hours. Excess amine and methanol were removed from the mixture, which was subjected to silica gel column chromatography with a mixture of hexane and ethyl acetate to give 201 mg of (Z)-N-methyl-2-[2-(3-tolyloxy)phenyl]-2-methoxyiminoacetamide (Compound No. 5).

reactant | methyl-(Z)-2-[2-(3-tolyloxy)phenyl]-2-methoxyiminoacetate | COC(\C(=N/OC)\C1=C(C=CC=C1)OC=1C=C(C=CC1)C)=O | C17H17NO4
reactant | [2-(3-tolyloxy)phenyl]-2-methoxyiminoacetate | C1(=CC(=CC=C1)OC1=C(C=CC=C1)OC(C=NOC)=O)C | C16H15NO4
reactant | methylamine | 197 mg | CN | CH5N
product | (Z)-N-methyl-2-[2-(3-tolyloxy)phenyl]-2-methoxyiminoacetamide | 201 mg | CNC(\C(=N/OC)\C1=C(C=CC=C1)OC=1C=C(C=CC1)C)=O | C17H18N2O3
